US09168248B2
tert-Butyl[5-(5-bromo-1,3,4-thiadiazol-2-yl)-2H-tetrazol-2-yl]acetate
The title compound was prepared in a similar manner as described for Intermediate 5 from 5-(5-bromo-1,3,4-thiadiazol-2-yl)-1H-tetrazole and tert-butyl bromoacetate. The isolated title compound was contaminated with ˜20% of tert-butyl[5-(5-bromo-1,3,4-thiadiazol-2-yl)-1H-tetrazol-1-yl]acetate. 1HNMR (CDCl3 300 MHz): δ 5.43 (s, 2H), 1.47 (s, 9H).

reactant | 5-(5-bromo-1,3,4-thiadiazol-2-yl)-1H-tetrazole | BrC1=NN=C(S1)C1=NN=NN1 | C3HBrN6S
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | tert-Butyl[5-(5-bromo-1,3,4-thiadiazol-2-yl)-2H-tetrazol-2-yl]acetate | C(C)(C)(C)OC(CN1N=C(N=N1)C=1SC(=NN1)Br)=O | C9H11BrN6O2S
